* \\wsl.localhost\Ubuntu-22.04\home\omedeiro\hTron-behavioral-model\nmem_cell_read_v3.asc
* Generated by LTspice 24.1.4 for Windows.
I1 0 N002 PWL file=enab.txt
I2 0 N001 PWL file=chan.txt
R1 N002 N003 1n
R2 N001 out 1n
R3 out 0 50
R4 out 0 1G
X§HL N003 N004 out 0 tempL N005 N007 hTron_behav chan_width=150n, heater_width=100n, chan_thickness=23.6n, chan_length=1u, sheet_resistance=78, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde={Jsw_set}, Isupp_tilde={enable_set}, Jchanr={Jconst_set}, tau_on=5n, ICh_bias_on=100u, Ih_bias_on={enable_set}
X§HR N004 0 out 0 tempR N006 N008 hTron_behav chan_width=300n, heater_width=100n, chan_thickness=23.5n, chan_length=6u, sheet_resistance=78, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde={Jsw_set}, Isupp_tilde={enable_set}, Jchanr={Jconst_set}, tau_on=5n, ICh_bias_on=100u, Ih_bias_on={enable_set}
R§irhr N008 0 1
R§ichr N006 0 1
R§irhl N007 0 1
R§ichl N005 0 1
.tran 0 3000n 0 1n
.options reltol 1e-6
.param Jsw_set=270G Jconst_set=270G enable_set=530u
.lib hTron_behavioral.lib
.backanno
.end
